US05728835
4-[(2-Methoxyanilino)sulfonyl]benzoic acid
Using o-anisidine (0.585 ml, 5.0 mmol) and 4-(chlorosulfonyl)benzoic acid (1.15 g, 5.0 mmol), the procedure of Reference Example 2 was repeated to obtain 1.47 g (95.5%) of the title compound in the form of pink powder.

reactant | o-anisidine | 5.0 mmol, 0.585 ml | COC=1C(=CC=CC1)N | C7H9NO
reactant | 4-(chlorosulfonyl)benzoic acid | 5.0 mmol, 1.15 g | ClS(=O)(=O)C1=CC=C(C(=O)O)C=C1 | C7H5ClO4S
product | 4-[(2-Methoxyanilino)sulfonyl]benzoic acid | 1.47 g, 95.5% | COC1=C(NS(=O)(=O)C2=CC=C(C(=O)O)C=C2)C=CC=C1 | C14H13NO5S
